Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]=[C:3]([H:4])[O:5][C:6][H:7]>>[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-6.915516760910001
[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]=[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:5],3.1048334691500004
[C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]=[C:3]([H:4])[C:5][H:6]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-6.72038445093
[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6])[C:8]([H:9])([H:10])[O:11][H:12].[H:7],4.65395630548
[H:1][C:2][C:3](=[C:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3](#[C:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2],2.9066710118700003
[O:1][C@:2]([H:3])([C:4]#[C:5])[C:7]([H:8])([H:9])[H:10].[O:6]>>[O:1][C@@:2]([H:3])([C:4]=[C:5]=[O:6])[C:7]([H:8])([H:9])[H:10],-7.1118407473500005
[O:12].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][H:13]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11](=[O:12])[H:13],-8.3292050472
[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19].[H:1][C:2][H:3],5.06803341503
[H:1][C:2]([H:3])=[C:4][C@:5]([H:6])([C:7]([H:8])=[C:9][H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4][C@@:5]1([H:6])[C:7]([H:8])=[C:9]([H:10])[C:11]1([H:12])[H:13],-3.2147152570700004
[H:1][C:2]#[C:3][O:4][C:5]#[C:6][C:7]([H:8])[H:9]>>[C:7]([H:8])[H:9].[H:1][C:2]#[C:3][O:4][C:5]#[C:6],7.18691661592
[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[C:7]([H:8])[O:9][H:10].[H:1][C:2]#[C:3][O:4][C:5][H:6],5.85546873989
[H:1][C:2][O:3][C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2]=[O:3],1.32880855867
[O:1]=[C:2]([C:3][H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[O:1][C:2]#[C:3][H:4].[O:5]=[C:6]([H:7])[C:8]([H:9])[H:10],0.467026519858
[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.93858664362
[H:10].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:11]([H:12])[H:13]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.88125558546
[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])[O:5][H:6]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-4.2373228371900025
[C:5]([H:6])([H:7])[H:8].[O:1]=[C:2]=[C:3]([H:4])[C:9]([H:10])([H:11])[O:12][H:13]>>[O:1]=[C:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-1.7551179048900003
[C:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1].[C:2](=[C:3](\[H:4])[C:5]([H:6])([H:7])[H:8])\[C:9]([H:10])([H:11])[H:12],4.9375649413
[H:13].[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.62238568604
[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11]>>[C:4]([H:5])([H:6])=[C:7][C:8]([H:9])([H:10])[H:11].[O:1][C:2][C:3],1.3727209649
[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3][C:4]([H:5])[O:6][H:7],3.23830564496
[O:1][C:2]#[C:3][C:4]#[C:5][H:6]>>[C:4]#[C:5][H:6].[O:1][C:2][C:3],6.34800988798
[C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10].[O:1]=[C:2]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-0.8020276803
[C:3][H:4].[O:1]=[C:2][O:5][C:6]([H:7])([H:8])[H:9]>>[O:1]=[C:2]([C:3][H:4])[O:5][C:6]([H:7])([H:8])[H:9],-5.472439379
[H:1][O:2][C:3]#[C:4].[O:5]=[C:6]=[C:7]([H:8])[H:9]>>[H:1][O:2][C:3]#[C:4][O:5][C:6]=[C:7]([H:8])[H:9],-0.403613502621
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10].[O:11][H:12]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-5.37807095155
[C:2](#[C:3][H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10].[O:1]>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10],-2.83374363429
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8][C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])[C:6]#[C:7][C:8][C:9]([H:10])[H:11].[H:5],2.21202133395
[C:1]#[C:2][C:3]/[C:4]([H:5])=[C:7](\[H:8])[C:9][H:10].[H:6]>>[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10],-2.15565539636
[H:1][C:2]([C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]1[C:3]([H:4])([H:5])[O:6][C:7](=[C:8]([H:9])[H:10])[C:11]1([H:12])[H:13],-1.70094476294
